US04607053
4-Heptyl-N-hydroxy-N-methylbenzamide
To a 0° C. solution of N-methylhydroxylamine hydrochloride (701 mg, 2 eq.) in 20 ml of THF:H2O (1:1) with triethylamine (1.75 ml, 3.0 eq.) was added 4-n-heptyl benzoic acid chloride (1.0 g, 4.2 mmol). The solution was stirred for 1/2 hour at 0° C. then allowed to warm to room temperature and stir overnight. The reaction mixture was diluted with EtOAc and the organic layer washed with H2O, 1N HCl (2×), and brine, then dried over anhydrous MgSO4. Concentration in vacuo gave an oil which was flash chromatographed on LPS-1 silica gel eluting with (1:1) hexane:EtOAc. Product containing fractions were concentrated in vacuo to yield title product, 448 mg (43%) as a light yellow oil which solidified upon standing. TLC (1:1) Hexane:EtOAc Rf =0.18, UV+PMA. Product streaks to baseline.

reactant | N-methylhydroxylamine hydrochloride | 701 mg, 2 eq. | Cl.CNO
reactant | triethylamine | 1.75 ml, 3.0 eq. | C(C)N(CC)CC | C6H15N
reactant | 4-n-heptyl benzoic acid chloride | 4.2 mmol, 1.0 g | C(CCCCCC)C1=CC=C(C(=O)Cl)C=C1 | C14H19ClO
solvent | THF H2O | 20 ml | C1CCOC1.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Heptyl-N-hydroxy-N-methylbenzamide | C(CCCCCC)C1=CC=C(C(=O)N(C)O)C=C1 | C15H23NO2
